data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-c2ccccc2_2-CCC_3-C#N_4-CC(C)C_5-C_6-C_7-c2ccccc2","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(C#N)C(=O)CC(C)C)(c2ccccc2)CCC","C(C)(C)C(=O)c2ccccc2"],"products_smiles": ["C1(=C(CC(C)C)C(=O)C(C(c2ccccc2)(CCC)C1(C)C)C#N)c2ccccc2"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C)C)([O-])c2ccccc2","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(CCC)C(=C([O-])CCC(C)C)C#N)(C)C)c2ccccc2","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(CCC)C(C#N)C(=O)CCC(C)C)(C)C)c2ccccc2","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(CCC)C(C#N)C([O-])=CCC(C)C)(C)C)c2ccccc2","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(CC(C)C)C(=O)C(C(c2ccccc2)(CCC)C1(C)C)C#N)(c2ccccc2)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(CC(C)C)=C([O-])C(C(c2ccccc2)(CCC)C1(C)C)C#N)(c2ccccc2)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(CC(C)C)C(=O)C(C(c2ccccc2)(CCC)C1(C)C)C#N)c2ccccc2","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-205_1-c1ccc(OC)cc1","level": "easy","name": "Nierenstein reaction","reactants_smiles": ["C(=O)(Cl)(c1ccc(OC)cc1)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(CCl)(c1ccc(OC)cc1)"],"conditions": "None","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(Cl)(C[N+]#N)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "The carbonyl carbon of the acyl chloride is highly electrophilic due to the electron-withdrawing chloride, enabling nucleophilic attack by diazomethane's terminal carbon, which is nucleophilic from resonance with the adjacent diazonium group."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CCl)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "The tetrahedral intermediate collapses as chloride, a good leaving group, departs, restoring the carbonyl and forming the α-chloromethyl ketone, favored by the stability of the carbonyl and relief of negative charge on oxygen."}],"description": "In the Nierenstein reaction, diazomethane attacks the electrophilic carbonyl carbon of an acyl chloride, forming a tetrahedral intermediate. Chloride elimination then yields the α-chloromethyl ketone, driven by the stability of the carbonyl and good leaving group ability of chloride."}
